US06919331B2
A mixture of [2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-4-yl]-acetonitrile (51 mg, 0.12 mmol) and 10% Pd/C (9 mg) in methanol (20 mL) was rocked in a Parr shaker under a hydrogen atmosphere (40 psi) for 15 hrs. The catalyst was removed by filtration and the filtrate concentrated. The residue was purified by preparative HPLC (30-100% B) to give 1-[4-(2-amino-ethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one; HCl salt as the TFA salt, that was converted into the HCl salt by treatment with excess acetyl chloride in methanol, followed by removal of the volatiles in vacuo: 5 mg, 9% as a white solid.

reactant | [2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-4-yl]-acetonitrile | 0.12 mmol, 51 mg | C(C)(C)N1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC=C1CC#N)=O | C25H29N5O
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 9 mg | [Pd] | Pd
product | 1-[4-(2-amino-ethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one | NCCC1=CC=CC=2N(C(=NC21)CN2C(N(C1=C2C=CC=C1)C(C)C)=O)CCC(C)C | C25H33N5O
